US04572908
3-{2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-methoxy-1,2,5-thiadiazole-1-oxid
2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2,3-dichlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.5 g) and 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (0.2 g) were dissolved in methanol (15 ml) and heated at reflux for 14 hours. The solvent was evaporated and the residue chromatographed on silica "Kieselgel 60H" (Trade Mark), eluting with ethyl acetate. The product-containing fractions were combined and evaporated to give an oil which was triturated in ethyl acetate to give the title compound as a solid, yield 0.14 g, m.p. 183°-185°.

reactant | 2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2,3-dichlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.5 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C20H24Cl2N2O5
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 0.2 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
solvent | methanol | 15 ml | CO | CH4O
product | 3-{2-[(4-{2,3-Dichlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethylamino}-4-methoxy-1,2,5-thiadiazole-1-oxid | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC1=NS(N=C1OC)=O)C(=O)OCC | C23H26Cl2N4O7S
